2194-10-30 06:22:00 Physician Resident Progress Note
Chief Complaint: This is a 64 yo male with a history of post-polio
   syndrome and gout who presents with fatigue and dizziness. These
   symptoms have been worsening over the past 5-6 weeks. He developed SOB
   with exertion over the past week though no chest pain or palpitations.
   Notably, he has had a few episodes of spontaneous bleeding including a
   nosebleed and two episodes of bright red blood per rectum. He reports
   subjective fevers, though no sweats or chills. He did have an episode
   of nausea and emesis this am. He also reports that he this morning he
   had a right sided frontal headache and noticed some blurry vision that
   has resolved. He was seen by his PCP yesterday who ordered labs. This
   am he was referred into the ED for HCt of 10.
   24 Hour Events:
   Patient received 3 units platelets and 2 units PRBC's overnight
   Neurosurgery recs include BP < 140, repeat head CT today and q2 hr
   neurochecks
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-10-30**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 55 (54 - 88) bpm
   BP: 103/51(63) {103/37(59) - 143/100(106)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  2,600 mL
                                                                    788 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
   788 mL
   Blood products:
                                                                  1,080 mL
   Total out:
                                                                    660 mL
                                                                    320 mL
   Urine:
                                                                    660 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   7.4 g/dL
   109 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   141 mEq/L
   20.9 %
   1.7 K/uL
        [image002.jpg]
                             [**2194-10-29**]  05:24 PM
                             [**2194-10-29**]  08:00 PM
                             [**2194-10-29**]  11:13 PM
                             [**2194-10-30**]  03:30 AM
   WBC
   1.6
   1.7
   Hct
   16.7
   20.9
   Plt
   6
   49
   90
   85
   Cr
   1.0
   Glucose
   109
   Other labs: PT / PTT / INR:11.2/20.4/0.9, Fibrinogen:292 mg/dL,
   Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging:
   - Head CT
 left frontal, right parietal and right occipital foci of
   high density along sulci concerning for SAH, high density along
   expected course of MCA possible calcifications vs. thrombus
   Assessment and Plan
   Assessment and Plan: This is a 64 yo M history of polio and  gout who
   presents with fatigue and dizziness likely related to his pancotopenia
   which is new within the last two months.
   .
   # Fatigue/Pancytopenia: Differential for acute/subacute pancytopenia
   includes acute leukemias, the myelodysplastic syndromes (though given
   normal counts in [**Month (only) 93**] this is less likely), marrow replacement by
   fibrosis or tumor, or viral infection such as HIV. Patient seen by onc
   who plan for bone marrow biopsy in the am.
   - transfuse to Hct of at least 20
   - transfuse to plt count of >50,000
   - check HIV, CMV, EBV, parvovirus B19
   - check daily tumor lysis labs
   - maintenance IVF in case of tumor lysis
   - neutropenic precautions
   - f/u heme/onc recs
   .
   # Headache/Visual Disturbance: Resolved at this time. Given plt ct of 6
   symptoms concernig for SAH.
   - stat head ct
   - if e/o SAH would transfuse plts to >100,000
   - monitor for visual changes or HA onset
   .
   # Gout: No active issues.
   - Cont allopurinol, which will also be protective if tumor lysis
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: VD boots
   .
   # Access: peripherals
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2194-10-29**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-10-31 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -bone marrow bx c/w possible aplastic anemia. Stopped allopurinol.
   -repeat Hct 19. transfused another unit
   Allergies:
   Aspirin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-10-31**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 48 (48 - 75) bpm
   BP: 100/57(67) {75/38(52) - 118/67(75)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                  2,069 mL
                                                                    120 mL
   PO:
                                                                    580 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    940 mL
   Blood products:
                                                                    549 mL
   Total out:
                                                                  2,335 mL
                                                                    300 mL
   Urine:
                                                                  2,335 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -266 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Cardiovascular: gen: calm, NAD
   cv: RRR
   resp: CTAB anteriorly
   abd: soft, NT
   ext: 2+ dp b/l, no c/c/e
   Labs / Radiology
   89 K/uL
   7.0 g/dL
   109 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   141 mEq/L
   19.8 %
   1.3 K/uL
        [image002.jpg]
                             [**2194-10-29**]  05:24 PM
                             [**2194-10-29**]  08:00 PM
                             [**2194-10-29**]  11:13 PM
                             [**2194-10-30**]  03:30 AM
                             [**2194-10-30**]  09:27 AM
                             [**2194-10-30**]  03:04 PM
   WBC
   1.6
   1.7
   1.4
   1.3
   Hct
   16.7
   20.9
   20.6
   19.8
   Plt
   6
   49
   90
   85
   96
   89
   Cr
   1.0
   Glucose
   109
   Other labs: PT / PTT / INR:11.2/20.4/0.9, Differential-Neuts:22.8 %,
   Lymph:72.8 %, Mono:1.6 %, Eos:2.4 %, Fibrinogen:292 mg/dL, Ca++:8.3
   mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: prelim read of head CT: improved
   ferritin 855
   Triglycerides 152
   Microbiology: ebv serologies c/w old infection
   HIV negative
   Assessment and Plan
 PANCYTOPENIA
 ANEMIA, OTHER
   Assessment and Plan: This is a 64 yo M history of polio and  gout who
   presents with fatigue and dizziness likely related to his pancotopenia
   which is new within the last two months.
   .
   # Fatigue/Pancytopenia: Differential for acute/subacute pancytopenia
   includes acute leukemias, the myelodysplastic syndromes (though given
   normal counts in [**Month (only) 93**] this is less likely), marrow replacement by
   fibrosis or tumor, or viral infection such as HIV. Patient seen by onc
   who did bone marrow bx showed no leukemia, concerning for aplastic
   anemia
   - transfuse to Hct of at least 20
   - transfuse to plt count of >20,000
   -d/c allopurinol as can cause aplastic anemia, indomethicin already
   dced for same reason
   -would consider pt to have allergy to indomethicin and allopurinol
   -  CMV, parvovirus B19- all pending
   - HIV [**Doctor First Name 8331**] neg and EBV serologies c/w prior infection
   - check daily tumor lysis labs
   - maintenance IVF in case of tumor lysis
   - neutropenic precautions
   - f/u heme/onc recs and bone marrow biopsy results
   - febrile neutropenic workup if febrile
   .
   # Headache/Visual Disturbance: Resolved at this time. Concern for SAH.
   - prelim read on repeat head CT is improved from prior, f/u final read
   - transfuse platelets to >20,000
   - maintain BP < 140
   .
   # Gout: No active issues.
   - allopurinol discontinued, will follow for symptoms
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: VD boots
   .
   # Access: peripherals
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disposition: transfer to [**Location 8332**] service
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2194-10-29**] 06:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: